US08193199B2
To a solution of 2-(2-chlorophenyl)-7-fluoroquinoline-3-carbonitrile (1.000 g, 3.537 mmol) in toluene (3.537 mL, 3.537 mmol) at −78° C. was added with stirring, DIBAL-H, 1 M sol. in Toluene (3.891 mL, 3.891 mmol) and the mixture was allowed to warm to −15° C. with stirring over 13 h. The mixture was cooled in ice water bath, quenched by addition of 1 N aq. HCl (14.15 mL, 14.15 mmol), and stirred for 2 h. To the mixture was added potassium acetate (3 g, 30.56 mmol, 8.6 eqv) and the mixture extracted with ethyl acetate (50 mL×2). The combined organic layers were washed saturated NaHCO3 (50 mL×1), brine (50 mL x), filtered, and concentrated at reduced pressure to give a yellow solid. The yellow solid was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and then 50% isocratic of EtOAc for 10 min as eluent to give 2-(2-chlorophenyl)-7-fluoroquinoline-3-carbaldehyde as a light yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 9.88 (1H, s), 9.11 (1H, s), 8.44 (1H, dd, J=9.1, 6.4 Hz), 7.92 (1H, dd, J=10.3, 2.6 Hz), 7.72-7.78 (1H, m), 7.50-7.66 (4H, m); LC-MS (ESI) m/z 286.1 [M+H]+.

reactant | 2-(2-chlorophenyl)-7-fluoroquinoline-3-carbonitrile | 3.537 mmol, 1.000 g | ClC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C=C1C#N)F | C16H8ClFN2
reactant | toluene | 3.537 mmol, 3.537 mL | C1(=CC=CC=C1)C | C7H8
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | Toluene | 3.891 mmol, 3.891 mL | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 14.15 mmol, 1 N, 14.15 mL | Cl | ClH
reactant | potassium acetate | 30.56 mmol, 3 g, 8.6 eqv | C(C)(=O)[O-].[K+]
product | 2-(2-chlorophenyl)-7-fluoroquinoline-3-carbaldehyde | ClC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C=C1C=O)F | C16H9ClFNO
